US06399629B1
(A) N-tert-Butoxycarbonyl-4-(3,5-Dichlorophenoxy)piperidine
Triphenylphosphine (786 mg) was added to a solution of N-tert-butoxycarbonyl-4-hydroxypiperidine (603 mg), 3,5-dichlorophenol (489 mg) and diethyl azodicarboxylate (522 mg) in tetrahydrofuran (15 mL) at room temperature. After stirring at room temperature for 14 hr, the reaction mixture was evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:6) to give the titled compound (815 mg) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 1.48 (s, 9H), 1.75 (m, 2H), 1.90 (m, 2H), 3.37 (m, 2H), 3.66 (m, 2H), 4.44 (m, 1H), 6.80 (d, J=1.5 Hz, 2H), and 6.95 (s, 1H); mass spectrum (EI+) m/e 345 (M).

reactant | Triphenylphosphine | 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-tert-butoxycarbonyl-4-hydroxypiperidine | 603 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 3,5-dichlorophenol | 489 mg | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | diethyl azodicarboxylate | 522 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-4-(3,5-Dichlorophenoxy)piperidine | 815 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=CC(=C1)Cl)Cl | C16H21Cl2NO3
